US08124606B2
Compound 6: (S)-N-methyl-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide:
(S)-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid (100 mg, 0.245 mmol) was suspended in DMF (1.5 mL) and DIPEA (0.3 mL) was added followed by methylamine hydrochloride (27 mg, 0.400 mmol) and HATU (200 mg, 0.526 mmol). The reaction mixture was stirred at ambient temperature for 4 h and diluted with MeOH (2 mL). The solution was purified using HPCL (25-95% acetonitrile in water, NH4HCO3 buffered). The fractions were concentrated in vacuo and the resulting residue was crystallized with MeOH—water (1:5, 15 mL) to afford the title compound as an off-white solid (52.3 mg, 51%). 1H NMR (400 MHz, DMSO-d6) δ (ppm): 1.80-2.03 (m, 3H) 2.09-2.25 (m, 1H) 2.41 (br. s., 4H) 2.74 (d, J=4.29 Hz, 3H) 3.34-3.44 (m, 3H) 3.46-3.64 (m, 5H) 3.92-4.05 (m, 1H) 6.82 (d, J=9.09 Hz, 1H) 6.99 (d, 1H) 6.93-7.04 (m, 1H) 7.61 (s, 1H) 7.91 (dd, J=8.97, 2.15 Hz, 1H) 8.17-8.23 (m, 1H) 8.56 (d, J=1.77 Hz, 1H) 10.44 (s, 1H); [M+H] calc'd for C22H27N7O2, 422; found, 422.

reactant | (S)-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinic acid | 0.245 mmol, 100 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=NC=C(C(=O)O)C=C3)CCC2 | C21H24N6O3
reactant | DIPEA | 0.3 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | methylamine hydrochloride | 0.400 mmol, 27 mg | Cl.CN
reactant | HATU | 0.526 mmol, 200 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
solvent | MeOH | 2 mL | CO | CH4O
product | (S)-N-methyl-6-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)nicotinamide | 52.3 mg, 51% | CNC(C1=CN=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)=O | C22H27N7O2
